US07932250B2
6-Amino-N-isopropylnicotinamide
To a solution of 300 mg (2.17 mmol) of 6-aminonicotinic acid in 50 mL of chloroform were added 370 μL (4.34 mmol) of isopropylamine, 4 mL of anhydrous propanephosphonic acid (25 wt % solution in ethyl acetate) and 1.4 mL (10 mmol) of triethylamin, and the mixture was stirred for 6 hours at room temperature. Then, saturated sodium bicarbonate aqueous solution was added to the reaction mixture, and the mixture was extracted with dichloromethane. The organic layer was washed with saturated saline solution and dried over with anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography (eluent:dichloromethane/methanol=10/1 to 5/1) to give 30 mg (8%) of the title compound.

reactant | 6-aminonicotinic acid | 2.17 mmol, 300 mg | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
reactant | isopropylamine | 4.34 mmol, 370 μL | C(C)(C)N | C3H9N
reactant | propanephosphonic acid | 4 mL | C(CC)P(O)(=O)O | C3H9O3P
reactant | triethylamin | 10 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-Amino-N-isopropylnicotinamide | 30 mg, 8% | NC1=NC=C(C(=O)NC(C)C)C=C1 | C9H13N3O
